.subckt LELO_FDA_MILLER VSS VDD VOUTP VOUTN IBIAS VINP VINN VCMREF
* ====================================================================
* Folded-Cascode FDA + Choksi-Carley CMFB.   SKY130A.  Iter 2.
*
* Bias gen: Sooch wide-swing cascode bias.  Two 50uA branches mirrored
*   from IBIAS produce pcas (PMOS aux at top) and ncas (NMOS aux at
*   bottom).  Cascode bias devices are sized so that V_cas = Vt + 2*Vov,
*   keeping the source-side current devices at the edge of saturation
*   and maximizing output swing.
*
* Currents:
*   IBIAS    : 100u (ref)
*   I_TAIL   : 200u  (M_T, 2x mirror)
*   I_M1=M2  : 100u each
*   I_M3=M4  : 200u each (PMOS source, 2x folds 100u down each side)
*   I_M5=M6  : 100u (PMOS cascode, fold path)
*   I_M7=M8  : 100u (NMOS cascode at output)
*   I_M9=M10 : 100u (CMFB sink, set by vctrl)
*   I_pbias  : 100u (diode branch)
*   I_PCAS   : 50u  (Sooch aux for pcas)
*   I_NCAS   : 50u  (Sooch aux for ncas)
*   I_CMFB   : 100u tail per side (200u total)
*  Total ~1.5 mA -> 2.7 mW @ 1.8V
* ====================================================================

* ---- IBIAS reference -----------------------------------------------
XMNB    IBIAS  IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=4 nf=1 m=1

* ---- pbias generation: NMOS pulls 100u through PMOS diode ----------
XMPBN   pbias  IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=4 nf=1 m=1
XMPBD   pbias  pbias  VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=2 W=40 nf=4 m=1

* ---- Sooch wide-swing cascode bias: pcas branch (50uA) -------------
* Source 50uA from VDD via PMOS mirror, sink into PMOS aux diode (drain=
* gate=pcas, source=VDD).  Aux W/L = (W/L_M5)/4 at half current scales
* Vov so Vsg_aux = |Vt| + 2|Vov_M5|. Then pcas = VDD - Vsg_aux.
*
* Sink for the 50uA: NMOS gate=IBIAS sized 1/2 of MNB.
XMPC_AUX pcas   pcas   VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=10 nf=1 m=1
XMPC_SNK pcas   IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=2 W=4 nf=1 m=1

* ---- Sooch wide-swing cascode bias: ncas branch (50uA) -------------
* Source 50uA from pbias mirror, sink into NMOS aux diode (drain=gate=
* ncas, source=VSS).  Aux W/L = (W/L_M7)/8 at 50u scales Vov so
* Vgs_aux = Vt + 2*Vov_M7.
XMNC_SRC ncas   pbias  VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=10 nf=1 m=1
XMNC_AUX ncas   ncas   VSS    VSS  sky130_fd_pr__nfet_01v8 L=2 W=15 nf=1 m=1

* ---- NMOS pair tail (200u: 2x mirror of MNB) -----------------------
XMT    ntail  IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=8 nf=2 m=1

* ---- NMOS input pair (100u each) -----------------------------------
* L=2 (was 0.5) for ~4x ro1 -> ~12 dB extra gain at output node
XM1    nfp    VINP   ntail  VSS  sky130_fd_pr__nfet_01v8 L=2 W=80 nf=8 m=1
XM2    nfn    VINN   ntail  VSS  sky130_fd_pr__nfet_01v8 L=2 W=80 nf=8 m=1

* ---- PMOS source (200u each: 2x mirror; M3 L matches pbias diode L) -
* L=4 for high ro3. W halved (80->40) so Cgs/Cdb at nfp is halved,
* moving the parasitic pole at nfp well above GBW. Higher Vov (~0.27V)
* slightly hurts headroom but is fine since nfp sits at ~1.55V.
XM3    nfp    pbias  VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=4 W=40 nf=8 m=1
XM4    nfn    pbias  VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=4 W=40 nf=8 m=1

* ---- PMOS cascode (100u) -------------------------------------------
* L=2 keeps Cgs(M5) low so nfp pole stays high. Cascode boost from
* gm5*ro5 alone is enough; the gain mostly comes from ro3.
XM5    VOUTP  pcas   nfp    VDD  sky130_fd_pr__pfet_01v8_lvt L=2 W=80 nf=8 m=1
XM6    VOUTN  pcas   nfn    VDD  sky130_fd_pr__pfet_01v8_lvt L=2 W=80 nf=8 m=1

* ---- NMOS cascode (100u) -------------------------------------------
* L=2 same reasoning -- Rdn dominated by ro9 (CMFB sink, L=4) below.
XM7    VOUTP  ncas   nlowp  VSS  sky130_fd_pr__nfet_01v8 L=2 W=60 nf=6 m=1
XM8    VOUTN  ncas   nlown  VSS  sky130_fd_pr__nfet_01v8 L=2 W=60 nf=6 m=1

* ---- CMFB sink ----------------------------------------------------
* W reduced 80->20, L 2->4 so device has appreciable Vov (~0.18V) at 100uA
* AND high ro9 for gain. nlowp lifts out of triode, vctrl stays near mid-rail.
XM9    nlowp  vctrl  VSS    VSS  sky130_fd_pr__nfet_01v8 L=4 W=20 nf=4 m=1
XM10   nlown  vctrl  VSS    VSS  sky130_fd_pr__nfet_01v8 L=4 W=20 nf=4 m=1

* ---- Choksi-Carley CMFB (NMOS-input, matches input pair) ----------
* 5T-OTA topology: NMOS pair sits on NMOS tail (to VSS), PMOS load
* mirror at top.  Two pairs, one for each output, share the load:
*
*  VDD
*   |
*   +-- QDP(diode) ---+--- vd
*   |                 |
*   +-- QDN(mirror)  -+--- vctrl  (CMFB output -> M9/M10 gates)
*                     |
*  vd -- drain QVOP  vctrl -- drain QVCMP    (P-side pair)
*        gate VOUTP         gate VCMREF
*        +---- stailp -----+
*                |
*               QTNP (NMOS tail, gate=IBIAS, ~25u)
*                |
*               VSS
*  vd -- drain QVON  vctrl -- drain QVCMN    (N-side pair)
*        gate VOUTN         gate VCMREF
*        +---- stailn -----+
*                |
*               QTNN (NMOS tail, gate=IBIAS, ~25u)
*                |
*               VSS
*
* Polarity:  V_OCM up -> I_QVOP+I_QVON up -> diode current up ->
*   mirror current up -> vctrl pulled UP (mirror sources more, NMOS
*   sinks fixed VCMREF current) -> M9 sinks more -> V_OCM down.
*   NEGATIVE FB. CORRECT.
* P-side
XQTNP  stailp IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=8 nf=2 m=1
XQVOP  vd     VOUTP  stailp VSS  sky130_fd_pr__nfet_01v8 L=0.5 W=40 nf=2 m=1
XQVCMP vctrl  VCMREF stailp VSS  sky130_fd_pr__nfet_01v8 L=0.5 W=40 nf=2 m=1
* N-side
XQTNN  stailn IBIAS  VSS    VSS  sky130_fd_pr__nfet_01v8 L=1 W=8 nf=2 m=1
XQVON  vd     VOUTN  stailn VSS  sky130_fd_pr__nfet_01v8 L=0.5 W=40 nf=2 m=1
XQVCMN vctrl  VCMREF stailn VSS  sky130_fd_pr__nfet_01v8 L=0.5 W=40 nf=2 m=1
* PMOS load mirror (shared)
XQDP   vd     vd     VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=20 nf=2 m=1
XQDN   vctrl  vd     VDD    VDD  sky130_fd_pr__pfet_01v8_lvt L=1 W=20 nf=2 m=1
* CCMC compensation cap: 10p (was 2p) to lower CMFB loop UGF below
* the non-dominant pole, ensuring CMFB stability across all corners.
CCMC   vctrl  VSS    10p

* ---- Startup leak at folding nodes ---------------------------------
RSTUFP nfp   VSS   20Meg
RSTUFN nfn   VSS   20Meg

.ends

